### PR TITLE
feat(Computability/QueryComplexity): Oracle-based computation 

### PR DESCRIPTION
**Pull request by tomaz1502**
This PR adds the types and lemmas for oracle-based computation. In this model, computations are run on a monad which also counts the number of oracle queries executed. With it, it becomes possible to reason about the upper bound of the query complexity of algorithms. In the future, we could extend this work to include the necessary bits from information theory and probability to also reason about lower bounds on query complexity, like the work in https://github.com/girving/debate.

Zulip discussion: https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2318629.20runtime.20complexity.20of.20sorting.20a.20list

Co-authored-by: Geoffrey Irving <irving@naml.us>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+/-- A deterministic oracle is a map from `α` to `Bool` -/
+def Oracle (α : Type) := α → Bool
+
+/-- A deterministic computation that make decisions by querying oracles. A computation is either a
+pure value or the identifier of an oracle (`o`) drawn from a predefined set (`s`), a value to
+be queried by the oracle (`i`) and two other computations, to be run depending on the answer
+of the oracle. -/
+inductive Comp (ι : Type) {I : Type} (s : Set I) (α : Type) : Type where
+  | pure' : α → Comp ι s α
+  | query' : (o : I) → o ∈ s → (i : ι) → Comp ι s α → Comp ι s α → Comp ι s α
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Defs.lean:46]: I got some significant simplifications out of replacing the two `Comp` arguments here with `Bool → Comp`. It practice it seems to reduce the number of cases needed in proofs.

See recent https://github.com/girving/debate for the new style.

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+just returns `true` or `false` according to the answer of the oracle. -/
+def query (o : I) (y : ι) : Comp ι {o} Bool :=
+  Comp.query' o (mem_singleton _) y (pure true) (pure false)
+
+/-- Execute `f` with the oracles `os`. Returns the final value and the number of queries to
+each one of the oracles. -/
+def run (f : Comp ι s α) (os : I → Oracle ι) : α × (I → ℕ) := match f with
+  | .pure' x => (x, fun _ => 0)
+  | .query' i _ y f0 f1 =>
+    let x := (os i) y
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Defs.lean:70]: No need for parentheses here.

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,102 @@
...
+    let (z,c) := if x then f0.run os else f1.run os
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Defs.lean:71]: Per previous comment, using `Bool → Comp` in the definition of `query'` replaces the if with `(f x).run os`, which is cleaner.

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,102 @@
...
+    (z, c + fun j => if j = i then 1 else 0)
+
+/-- The value of a `Comp ι s` after it's execution -/
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Defs.lean:74]: Just "after execution" ("it's" is both wrong and unnecessary).

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,102 @@
...
+def value (f : Comp ι s α) (o : I → Oracle ι) : α :=
+  Prod.fst (f.run o)
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Defs.lean:76]: (f.run o).1

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
...
+
+/-- The value of a `Comp ι s` after it's execution with a single oracle -/
+@[simp]
+def value' (f : Comp ι s α) (o : Oracle ι) : α :=
+  f.value fun _ ↦ o
+
+/-- The query count for a specific oracle of a `Comp ι s` -/
+def cost (f : Comp ι s α) (o : I → Oracle ι) (i : I) : ℕ :=
+  Prod.snd (f.run o) i
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Defs.lean:85]: (f.run o).2 i

File: Mathlib/Computability/QueryComplexity/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,185 @@
...
+/-- `pure'` has cost' 0 -/
+@[simp]
+lemma cost'_pure' (x : α) (o : Oracle ι) (i : I) : (pure' x : Comp ι s α).cost' o i = 0 := by
+  simp only [cost', cost_pure']
+
+/-- `query'` costs one query, plus the rest -/
+@[simp]
+lemma cost_query' {i : I} (m : i ∈ s) (y : ι) (f0 f1 : Comp ι s α) (o : I → Oracle ι) (j : I) :
+    (query' i m y f0 f1).cost o j =
+      (if j = i then 1 else 0) + (if (o i y) then f0.cost o j else f1.cost o j) := by
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Basic.lean:86]: No need for parentheses around `o i y` (but also this if will go away once you do the `Bool → Comp` thing).

File: Mathlib/Computability/QueryComplexity/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,185 @@
...
+@[simp]
+lemma allow_pure (x : α) (st : s ⊆ t) : (pure x : Comp ι s α).allow st = pure x := by
+  simp only [allow]
+
+@[simp]
+lemma allow_all_pure (x : α) : (pure x : Comp ι s α).allow_all = pure x := by
+  simp only [allow_all, allow_pure]
+
+/-!
+## `map` don't change `Comp.value` and `Comp.cost`
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Basic.lean:171]: "doesn't"

File: Mathlib/Computability/QueryComplexity/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,185 @@
...
+-/
+
+@[simp]
+lemma value_map (f : α → β) (g : Comp ι s α) (o : I → Oracle ι) :
+    (f <$> g).value o = f  (g.value o) := by
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Basic.lean:176]: Extra space after f.

File: Mathlib/Computability/QueryComplexity/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,185 @@
...
+  simp only [map_eq, value_bind, value_pure]
+
+lemma cost_map (f : α → β) (g : Comp ι s α) (o : I → Oracle ι) (i : I) :
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Basic.lean:179]: I think this one should be `simp` too.

File: Mathlib/Computability/QueryComplexity/Basic.lean [hunk 11]
```diff
@@ -56,8 +56,8 @@ lemma value_pure (x : α) (o : I → Oracle ι) : (pure x : Comp ι s α).value
 lemma pure'_bind (x : α) (f : α → Comp ι s β) : (pure' x : Comp ι s α) >>= f = f x := rfl
 
 @[simp]
-lemma query'_bind (o : I) (m : o ∈ s) (y : ι) (f0 f1 : Comp ι s α)
-    (g : α → Comp ι s β) : query' o m y f0 f1 >>= g = .query' o m y (f0 >>= g) (f1 >>= g) := rfl
+lemma query'_bind (o : I) (m : o ∈ s) (y : ι) (f : Bool → Comp ι s α)
+    (g : α → Comp ι s β) : query' o m y f >>= g = .query' o m y (fun b => (f b) >>= g) := rfl
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Basic.lean:60]: Unnecessary parentheses around `f b`.

Comment (girving) [reply Mathlib/Computability/QueryComplexity/Basic.lean:60]: And also around `(fun b => ...)`.

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 12]
```diff
@@ -43,14 +43,14 @@ be queried by the oracle (`i`) and two other computations, to be run depending o
...
-  | query' : (o : I) → o ∈ s → (i : ι) → Comp ι s α → Comp ι s α → Comp ι s α
+  | query' : (o : I) → o ∈ s → (i : ι) → (Bool → Comp ι s α) → Comp ι s α
 
 namespace Comp
 
 /-- The standard bind operation for `Comp` -/
 def bind' (f : Comp ι s α) (g : α → Comp ι s β) : Comp ι s β := match f with
   | .pure' x => g x
-  | .query' o m y f0 f1 => .query' o m y (f0.bind' g) (f1.bind' g)
+  | .query' o m y f => .query' o m y (fun b => (f b).bind' g)
```
Comment (girving) [inline Mathlib/Computability/QueryComplexity/Defs.lean:53]: Unnecessary parentheses around the fun.

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 13]
```diff
@@ -0,0 +1,102 @@
...
+/-- A deterministic oracle is a map from `α` to `Bool` -/
+def Oracle (α : Type) := α → Bool
+
+/-- A deterministic computation that make decisions by querying oracles. A computation is either a
+pure value or the identifier of an oracle (`o`) drawn from a predefined set (`s`), a value to
+be queried by the oracle (`i`) and two other computations, to be run depending on the answer
+of the oracle. -/
+inductive Comp (ι : Type) {I : Type} (s : Set I) (α : Type) : Type where
+  | pure' : α → Comp ι s α
+  | query' : (o : I) → o ∈ s → (i : ι) → (Bool → Comp ι s α) → Comp ι s α
```
Comment (eric-wieser) [inline Mathlib/Computability/QueryComplexity/Defs.lean:46]: What do you think of something much more dependently-typed, like this?
```lean
/-- `Comp α β s γ` is the type of `γ`-producing computations that have access to a family of `oracles : Π (i : I) (a : α i), β a` restricted by `i ∈ s`. -/
inductive Comp {I : Type*} (α : I → Type*) (β : {i : I} → α i → Type*) (s : Set I) (γ : Type*) : Type _ where
  /-- A pure value without an oracle computation. -/
  | pure : γ → Comp α β s γ
  /-- An invocation of the permitted oracle `o` with input `a`, and a way to proceed with computation for each possible return value. -/
  | query (o : I) (ho : o ∈ s) (a : α o) : (β a → Comp α β s γ) → Comp α β s γ

/-- A sorting computation has access to an oracle that can decide the relation between two elements. -/
abbrev SortingComp {α} (r : α → α → Prop) := Comp (fun _ : Unit => α × α) (fun ab => Decidable (r ab.1 ab.2))
```

Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:46]: This has two main benefits over your version:
* It lets us have oracles that decide non-binary decisions
* It gives the continuation access to a proof that the decision was correct.

Comment (girving) [reply Mathlib/Computability/QueryComplexity/Defs.lean:46]: I agree that making the output flexible is good! I’ll make this change to my https://github.com/girving/debate version as well.

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 14]
```diff
@@ -0,0 +1,102 @@
...
+  f.cost fun _ ↦ o
+
+/-- Extend the set of allowed oracles in a computation -/
+def allow (f : Comp ι s α) (st : s ⊆ t) : Comp ι t α := match f with
+  | .pure' x => pure x
+  | .query' i m y f => .query' i (st m) y (fun b => (f b).allow st)
+
+/-- Extend the set of allowed oracles in a computation to the universe set -/
+def allow_all (f : Comp ι s α) : Comp ι (@univ I) α :=
+  f.allow (subset_univ s)
```
Comment (eric-wieser) [inline Mathlib/Computability/QueryComplexity/Defs.lean:98]: It's not entirely clear to me what purpose `s` serves in `Comp` (which is the reason for these existing); as far as I can tell, the sorting stuff does not need it.

@girving, do you have an example in mind where this is useful, vs just changing the indexing type of `I`?

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 15]
```diff
@@ -0,0 +1,102 @@
...
+  Comp.query' o (mem_singleton _) y pure
+
+/-- Execute `f` with the oracles `os`. Returns the final value and the number of queries to
+each one of the oracles. -/
+def run (f : Comp ι s α) (os : I → Oracle ι) : α × (I → ℕ) := match f with
+  | .pure' x => (x, fun _ => 0)
+  | .query' i _ y f =>
+    let x := os i y
+    let (z,c) := (f x).run os
+    (z, c + fun j => if j = i then 1 else 0)
```
Comment (eric-wieser) [inline Mathlib/Computability/QueryComplexity/Defs.lean:72]:
```suggestion
    (z, c + Pi.single i 1)
```

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:46]: It's also not clear to me whether we need a family of oracles, or if a single oracle would suffice; after all, you can have an oracle that takes a sigma type and uses `.fst` to decide which suboracle to call.

This makes `cost` slightly more complicated, but if the cost were configurable per-query, rather than a constant `1`, I think you can still encode the same things.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 14 above)
Comment (girving) [reply Mathlib/Computability/QueryComplexity/Defs.lean:98]: Here’s how it’s used in the debate protocol: https://github.com/girving/debate/blob/d3e2d0bb7f6f450bb3899fb349a69133329541eb/Debate/Protocol.lean#L94

And without it, this theorem and similar wouldn’t be true, as an evil Bob could query Alice’s oracle: https://github.com/girving/debate/blob/d3e2d0bb7f6f450bb3899fb349a69133329541eb/Debate/Cost.lean#L55

I should say I’m sympathetic to the worry that this is too specific to one kind of formalized result. We don’t need it for sort, so stripping it would be fine if we just want to get sort into mathlib (my lower bound on sort doesn’t use this either, of course).

Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:98]: The alternative I'm proposing in that example is for Bob, Alice, and Vera to have different indexing types. So for instance, your `def step` would have indexing type `BobUnit ⨁ AliceUnit ⨁ VeraUnit`.

Of course, this then becomes tricky to plumb combining together the oracles...

Comment (girving) [reply Mathlib/Computability/QueryComplexity/Defs.lean:98]: Ah, interesting. So the set argument to
Comp goes away, and cost takes a set of queries to count across.

Comment (girving) [reply Mathlib/Computability/QueryComplexity/Defs.lean:98]: My guess is that doing it with just types ends up messier, at least if you want to do variety of subsets. But I’m not confident about this.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:72]: Though using `DFinsupp` here would be slightly nicer because then you get a computable `Repr` for free

Comment (girving) [reply Mathlib/Computability/QueryComplexity/Defs.lean:72]: I think `DFinsupp` would be less ergonomic in practice, since it's harder to write down functions then.

Unfortunately I think a meta-lesson here is that the needs of the particular `debate` formalisation diverge from the maximally general version of `Comp`. E.g., I started doing the dependent output stuff, and it'll be fine mostly, but then all my applications will be `Bool` for fundamental reasons: the theorems depend on the number of bits in the representation of the output type, and it's cleaner if the number of bits is one.

On the margin that argues against trying to upstream it at this point, especially if the only standard (non-debate) result is sorting.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 13 above)
Comment (girving) [reply Mathlib/Computability/QueryComplexity/Defs.lean:46]: My version of `Comp` now has an arbitrary, dependent output type: https://github.com/girving/debate/commit/5a3d62f7e85f026d3756013c5a28cb6d68e07e8c.

Was all fairly straightforward, and actually made some of the proofs *cleaner* since it forced genericity.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 14 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:98]: I'm happy to stick with the sets for now.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:72]: In light of https://github.com/leanprover-community/mathlib4/pull/20924#discussion_r1929625674, are you in favor of the generality again?

Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:72]: (I also think it's fine to not use DFinsupp for now)

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:46]: Great! I note you stuck with `Bool` in the specialization. I'd be curious to know if the `Decidable` refactor was unreasonably painful. I think it's fine to get the sorting stuff in mathlib with the general `Comp` instantiated with a `Bool` specialization, but in the longer term I could foresee algorithms which need a proof from the oracle in order to produce their results, and so it would be great to have some idea of what pain that creates.

Comment (girving) [reply Mathlib/Computability/QueryComplexity/Defs.lean:46]: What do you mean by sticking with Bool?

If you mean for debate itself, leaving Bool requires introducing Wasserstein distance on Prob or some similar metric. It would be a significant refactor, and I’m not even clear exactly which generalization would be best.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 15 above)
Comment (girving) [reply Mathlib/Computability/QueryComplexity/Defs.lean:72]: Yep, output generality seems very good: it turned out to be easy to migrate to.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:46]: I mean as opposed to switching to some `Decidable P` for some `P`, to specify exactly what it is that the oracles are deciding

Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:46]: Yes, I've now concluded the same. If the return type is constrained enough to encode what was decided, then most likely you've given it the information it needs to shortcut the oracle!

**Comment by tomaz1502** [comment]
Hi @eric-wieser and @girving 
I updated the PR according to Eric's suggestion of letting the comp monad query over arbitrary dependent types. If I understand correctly, this is the only change that is going to be done for now, correct?

**Comment by eric-wieser** [comment]
@tomaz1502, please take another look at my suggestion above. - your types are not as dependant as mine were, and in particular all your oracles are forced to take the same types as input.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:81]: @tomaz1502, note the code suggestion above is independent of the radio of the discussion.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean]: Here's a case that maybe justifies a dependent output: if you have a sorting oracle, you perhaps can't safely get hold of a proof that the result is sorted, but you might want a proof that the output is a permutation of the input.

**Comment by tomaz1502** [comment]
> @tomaz1502, please take another look at my suggestion above. - your types are not as dependant as mine were, and in particular all your oracles are forced to take the same types as input.

Thanks, you're right. I updated it, but now I don't think we can easily define `value'`, that is, a function that takes a single oracle and runs the computation with it - the function that ignores the input index and always return the same oracle can't be typed, since the domain of the oracle depends on the index. Maybe it is okay to remove this function? (and also `cost'`)

**Comment by eric-wieser** [comment]
It's definitely possible to define them, but you'll need to specialize the index types too.

I'm not sure we want them in this PR though; let's leave them out and add them when we need them.

**Comment by eric-wieser** [comment]
I pushed a commit showing how to get the primed versions.

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean]: I took the liberty of applying this, and also adding `DecidableEq` because it seems convenient for computations to actually be computable.

**Comment by tomaz1502** [comment]
> I pushed a commit showing how to get the primed versions.

Oh, I see now. Thanks!

File: Mathlib/Computability/QueryComplexity/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,188 @@
...
+namespace QueryComplexity
+
+namespace Comp
+
+/-- The definition of `Comp.map` -/
+lemma map_eq (f : α → β) (x : Comp ι ω s α) : f <$> x = x >>= (fun x ↦ pure (f x)) := rfl
+
+/-- The definition of `Comp.bind` as `simp` lemmas -/
+@[simp]
+lemma pure'_bind (x : α) (f : α → Comp ι ω s β) : (pure' x : Comp ι ω s α) >>= f = f x := rfl
```
Comment (eric-wieser) [inline Mathlib/Computability/QueryComplexity/Basic.lean:31]: Usually it's a bad idea to have two ways of spelling things. Can you add a simp lemma that `pure' = pure`, and then remove all the `pure'` theorems from this file?

**Comment by eric-wieser** [comment]
I hope the barrage of commits didn't feel like me treading on your toes; some of the suggestions I had were devoid of any deesign content (like replacing `if` with `Pi.single`), and would have been much more painful for both of us if I'd typed them out in detail and then you'd gone through and fixed all the breakages!

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 17]
```diff
@@ -0,0 +1,116 @@
...
+def cost (f : Comp ι ω s α) (o : (i : I) → Oracle (ι i) ω) (i : I) : ℕ :=
+  (f.run o).2 i
+
+/-- Extend the set of allowed oracles in a computation -/
+def allow (f : Comp ι ω s α) (st : s ⊆ t) : Comp ι ω t α := match f with
+  | .pure' x => pure x
+  | .query' i m y f => .query' i (st m) y (fun b => (f b).allow st)
+
+/-- Extend the set of allowed oracles in a computation to the universe set -/
+def allowAll (f : Comp ι ω s α) : Comp ι ω (univ : Set I) α :=
```
Comment (eric-wieser) [inline Mathlib/Computability/QueryComplexity/Defs.lean:100]: If you make this an `abbrev`, then you can delete all the duplicate theorems about `allowAll`, as the ones about `allow` will automatically apply!

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 18]
```diff
@@ -0,0 +1,116 @@
...
+/-- A deterministic oracle is a dependent map -/
+def Oracle (α : Type*) (β : α → Type*) : Type _ := (x : α) → (β x)
+
+/-- An `Oracle` that always returns `Bool` -/
+abbrev BOracle (α : Type*) : Type _ := Oracle α fun _ ↦ Bool
+
+/-- A deterministic computation that make decisions by querying oracles. A computation is either a
+pure value or the identifier of an oracle (`o`) drawn from a predefined set (`s`), a value to
+be queried by the oracle (`i`) and a dependent selection function that determines which oracle to
+run, depending on the result of the query. -/
```
Comment (eric-wieser) [inline Mathlib/Computability/QueryComplexity/Defs.lean:48]: This isn't true; it doesn't determine which _oracle_ to run, but rather which _continuation_ `Comp` to run.

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 19]
```diff
@@ -0,0 +1,119 @@
...
+  | .pure' x => g x
+  | .query' o m y f => .query' o m y fun b => (f b).bind' g
+
+/-- `Comp` is a monad -/
+instance : Monad (Comp ι ω s) where
+  pure := Comp.pure'
+  bind := Comp.bind'
+
+@[simp]
+lemma pure_pure' (a : α) : ((pure a) : Comp ι ω s α) = pure' a := rfl
```
Comment (eric-wieser) [inline Mathlib/Computability/QueryComplexity/Defs.lean:70]: I think you should write this the other way around, as
```suggestion
@[simp]
lemma pure'_eq (a : α) : (pure' : α → Comp ι ω s α) = pure := rfl
```

File: Mathlib/Computability/QueryComplexity/Defs.lean (hunk 14 above)
Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean]: I had a play around with a set-free version in #22194

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 20]
```diff
@@ -0,0 +1,139 @@
...
+Note that this is the deterministic version.
+
+## Main Definitions
+
+* `QueryComplexity.Comp ι ω s α`: a computation with oracles in `s : Set ι` answering with `ω i`,
+  returning `α`.
+* `QueryComplexity.Comp.run f oracles : α × (I → ℕ)`: run `f : Comp ι s α` with
+  `oracles : I → Oracle ι`, returning the number of times each oracle is used.
+
+## Implementation notes
```
Comment (eric-wieser) [inline Mathlib/Computability/QueryComplexity/Defs.lean:24]: I've recorded some of my hesitations with this design here. I think we can safely get all of the mergeSort PRs reviewed and merge, and then revisit these decisions.

**Comment by tomaz1502** [comment]
Is there anything missing to merge this?

File: Mathlib/Computability/QueryComplexity/Defs.lean [hunk 21]
```diff
@@ -0,0 +1,147 @@
...
+def Oracle (α : Type*) (β : α → Type*) : Type _ := (x : α) → (β x)
+
+/-- An `Oracle` that always returns `Bool`. -/
+abbrev BOracle (α : Type*) : Type _ := Oracle α fun _ ↦ Bool
+
+/-- A deterministic computation that make decisions by querying oracles. A computation is either a
+pure value or the identifier of an oracle (`o`) drawn from a predefined set (`s`), a value to
+be queried by the oracle (`i`) and a dependent selection function that determines which continuation
+to run, depending on the result of the query. -/
+inductive Comp (ι : I → Type*) (ω : {i : I} → ι i → Type*) (s : Set I) (α : Type*) : Type _ where
```
Comment (quangvdao) [inline Mathlib/Computability/QueryComplexity/Defs.lean:64]: I know I'm quite late to this discussion, but I wanted to make some comments as I have been working on a cryptography library, [VCVio](https://github.com/dtumad/VCV-io), which also has oracle computation at its core, and also defines notions of query complexity.

The most general solution we settled on was that:
- Oracle specification should be a polynomial functor (`PFunctor`). This is exactly what your `Oracle` does.
- Oracle computation should be a Free monad over a polynomial functor, i.e.
```
inductive PFunctor.FreeM (P : PFunctor.{u}) : Type v → Type (max u v)
  | pure {α} (x : α) : FreeM P α
  | roll {α} (a : P.A) (r : P.B a → FreeM P α) : FreeM P α
deriving Inhabited
```
Your `Comp` is isomorphic to this construction, for a polynomial functor that is derived from `Oracle`. Namely,
```
def Oracle.toPFunctor {I : Type} {ι : I → Type} {s : Set I} (ω : {i : I} → ι i → Type) : PFunctor where
  A := (o : I) × (o ∈ s) ×' ι o
  B := fun ⟨_, _, i⟩ => ω i
```
I had to restrict to the same universe level since `PFunctor` currently doesn't support different universes for `A` and `B` (pending #24257 ).

From the above discussion, I think it might be best if we first define `PFunctor.FreeM`, then have `Comp` defined in terms of it. Especially, if you do not plan to (efficiently) run your definition, then I don't see much of a drawback besides some refactoring + potential custom induction scheme.

Comment (quangvdao) [reply Mathlib/Computability/QueryComplexity/Defs.lean:64]: Note also the `Freer` monad in #25491 . The `PFunctor.FreeM` has the advantage of not bumping universe level, which may come in handy if you want to express nested computation / computation in an interactive protocol. E.g.,
```
Input → m (Message × m Output))
```
where `m = PFunctor.FreeM`. This only works if `m` does not raise universe level.

Comment (eric-wieser) [reply Mathlib/Computability/QueryComplexity/Defs.lean:64]: My take on this is probably that we _only_ want `PFunctor.FreeM` for now, in place of `Comp`

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
